US04368253
(c) 4,4'-Dihydroxybenzoin
4,4'-Di(methoxymethoxy)benzoin (26 g) was dissolved in a mixture of water (250 ml) and ethanol (250 ml) at 80°. Concentrated hydrochloric acid (2.6 g) was added, and the solution was stirred at 80° for 45 minutes. Then it was cooled and a solution of sodium bicarbonate (2.6 g) in water (50 ml) was added. The reaction mixture was poured into water (600 ml) saturated with ammonium sulphate, and the resulting mixture was extracted with ether. The ethereal solution was dried over anhydrous MgSO4, and removal of the ether by distillation left 19 g of a dark red solid. Thin layer chromatography of this showed it to be substantially 4,4'-dihydroxybenzoin by comparison with an authentic sample (see later), and the material was used without further purification.

reactant | 4,4'-Di(methoxymethoxy)benzoin | 26 g | COCOC1=CC=C(C=C1)C(=O)C(O)C1=CC=C(C=C1)OCOC | C18H20O6
reactant | hydrochloric acid | 2.6 g | Cl | ClH
reactant | sodium bicarbonate | 2.6 g | C([O-])(O)=O.[Na+]
reactant | ammonium sulphate | S(=O)(=O)([O-])[O-].[NH4+].[NH4+]
solvent | water | 250 ml | O | H2O
solvent | ethanol | 250 ml | C(C)O | C2H6O
solvent | water | 50 ml | O | H2O
solvent | water | 600 ml | O | H2O
product | 4,4'-Dihydroxybenzoin | OC1=CC=C(C=C1)C(=O)C(O)C1=CC=C(C=C1)O | C14H12O4
